US07456164B2
Intermediate 12: 2-[1-(3-Chloro-propyl)-piperidin-4-yl]-ethanol
4-Piperidine ethanol (0.9 g, 7.5 mmol), acetone (18 ml, 20 vol), 5M NaOH solution (1.8 ml) and 1-bromo-3-chloropropane (3.54 g, 22.5 mmol, 3 eq.) were reacted together according to general procedure A to give the title compound (0.6 g, 37%) as an orange oil.

reactant | 4-Piperidine ethanol | 7.5 mmol, 0.9 g | N1CCC(CC1)CCO | C7H15NO
reactant | NaOH | 5M, 1.8 ml | [OH-].[Na+]
reactant | 1-bromo-3-chloropropane | 22.5 mmol, 3.54 g, 3 eq. | BrCCCCl | C3H6BrCl
solvent | acetone | 18 ml | CC(=O)C | C3H6O
product | 2-[1-(3-Chloro-propyl)-piperidin-4-yl]-ethanol | 0.6 g, 37% | ClCCCN1CCC(CC1)CCO | C10H20ClNO
